US04059433
A mixture of 8.6 g of N-(4-cyano-3-propoxy-5-isothiazolyl)-2-methylpropanamide, from Example VII, in 20 ml of concentrated sulfuric acid was heated at 50° for 1 hour. Thin-layer chromatographic analysis indicated that the reaction was complete. The reaction mixture was poured into 200 ml of cold water. The solution was neutralized with ammonium hydroxide. The resulting precipitate was collected by filtration. The dried solid was recrystallized from toluene to give 7.7 g of N-(4-carbamoyl-3-propoxy-5-isothiazolyl)-2-methylpropanamide m.p. 153°-154°. The nmr and ir spectra were consistent with the assigned structure.

reactant | N-(4-cyano-3-propoxy-5-isothiazolyl)-2-methylpropanamide | 8.6 g | C(#N)C=1C(=NSC1NC(C(C)C)=O)OCCC | C11H15N3O2S
reactant | water | 200 ml | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | N-(4-carbamoyl-3-propoxy-5-isothiazolyl)-2-methylpropanamide | 7.7 g | C(N)(=O)C=1C(=NSC1NC(C(C)C)=O)OCCC | C11H17N3O3S
